US08183271B2
Methyl 4-[4-(4-cyanophenyl)-2-hydroxymethylbutyl]benzoate
26 ml (26 mmol) of a 1 M borane-THF complex solution are added dropwise to a solution of 4.2 g (12.98 mmol) of methyl 4-[2-carboxy-4-(4-cyanophenyl)butyl]benzoate in 40 ml of THF at −15° C., and the mixture is stirred at this temperature for 3 h. A further 13 ml (13 mmol) of 1 M borane-THF complex solution is then added dropwise and stirring is continued for a further 30 min at −15° C. After reaction is complete, saturated sodium bicarbonate solution is added to the reaction mixture, and the solvent is concentrated to dryness. The residue is taken up in dichloromethane, dried over sodium sulfate and again freed of solvent. The resulting crude product is purified by flash chromatography (mobile phase: ethyl acetate/petroleum ether 1:1, 150 g silica gel). 3.1 g (90% purity, 83% of theory) of a colorless solid are obtained.

reactant | methyl 4-[2-carboxy-4-(4-cyanophenyl)butyl]benzoate | 12.98 mmol, 4.2 g | C(=O)(O)C(CC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C=C1)C#N | C20H19NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Methyl 4-[4-(4-cyanophenyl)-2-hydroxymethylbutyl]benzoate | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)CO | C20H21NO3
